US04820715
4-Amino-2-(2-amino-2-oxoethoxy)-5-chloro-N-[2-(diethylamino)ethyl]benzamide Acetate Monohydrate
A well stirred mixture of 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide hydrochloride (2.0 g, 6.2 mmoles), potassium carbonate (2.57 g, 18.6 mmoles), sodium iodide (0.93 g, 6.8 mmoles) and 2-chloroacetamide (0.64 g, 6.8 mmoles) was heated at 75° for 3 hours. The mixture was then evaporated in vacuo and the residue partitioned between water and methylene chloride. The aqueous phase was extracted twice with methylene chloride, and the combined extracts treated with an excess of acetic acid followed by concentration in vacuo. The semi-solid residue was treated with methylene chloride (150 ml) and filtered to give a colorless solid. This was recrystallized from acetonitrile to give 1.04 g (41%) of the title compound as an off-white solid, mp. 116°-125°. The NMR spectrum (90 MHz) in D2O gave the following resonances: δ 7.8 (s, 1H); 6.26 (1H, s); 4.8 (s, 2H); 3.8 (m, 2H); 3.3 (m, 6H); 1.95 (s, 3H); 1.3 (t, 6H).

reactant | 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide hydrochloride | 6.2 mmoles, 2.0 g | Cl.NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)O
reactant | potassium carbonate | 18.6 mmoles, 2.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 6.8 mmoles, 0.93 g | [I-].[Na+]
reactant | 2-chloroacetamide | 6.8 mmoles, 0.64 g | ClCC(=O)N | C2H4ClNO
product | 4-Amino-2-(2-amino-2-oxoethoxy)-5-chloro-N-[2-(diethylamino)ethyl]benzamide Acetate Monohydrate | 1.04 g, 41% | O.C(C)(=O)O.NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)OCC(=O)N | InChI=1S/C15H23ClN4O3.C2H4O2.H2O/c1-3-20(4-2)6-5-19-15(22)10-7-11(16)12(17)8-13(10)23-9-14(18)21;1-2(3)4;/h7-8H,3-6,9,17H2,1-2H3,(H2,18,21)(H,19,22);1H3,(H,3,4);1H2
